US07033765B1
The Synthesis of 1-(2,6-dimethylphenyl)-2,8,8-trioxo-1,4-diaza-7,8-dithianonane
A solution of 2-bromo-N-(2,6-dimethylphenyl)acetamide (2 g; 8.26 mmol), aminoethyl methanethiosulfonate hydrobromide (2.8 g; 11.86 mmol), and diisopropylethylamine (4 mL; 23 mmol) in dry DMF (70 mL) was stirred at room temperature for 3.5 hours. The solution was evaporated and the residue purified by column chromatography on SiO2. The column was eluted with CH2Cl2/MeOH/NH4OH 95:5:0.2 and evaporation of the fractions containing the desired product afforded a pale yellow oil (1.66 g) which crystallized upon standing in the freezer. This was disolved in methanol/ether (1:1; 50 mL). A saturated solution of HCl in ether (4 mL) was added. The precipitated hydrochloride salt was filtered and dried to yield a light brown solid (1.15 g; 39% yield) with a melting point of 158-162° C. 1H NMR (500 MHz,(CD3)2SO) δ 9.93 (s, 1H), 9.32 (s, br, 2H), 7.10-7.07 (m, 3H); 4.08 (s, 2H), 3.61 (s, 3H), 3.54 (t, J=7.2 Hz, 2H), 3.40 (t, J7.2 Hz, 2H), 2.16 (s, 6H).

reactant | 2-bromo-N-(2,6-dimethylphenyl)acetamide | 8.26 mmol, 2 g | BrCC(=O)NC1=C(C=CC=C1C)C | C10H12BrNO
reactant | aminoethyl methanethiosulfonate hydrobromide | 11.86 mmol, 2.8 g | Br.CS(=O)(OCCN)=S
reactant | diisopropylethylamine | 23 mmol, 4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 1-(2,6-dimethylphenyl)-2,8,8-trioxo-1,4-diaza-7,8-dithianonane | 1.66 g, 39% yield | CC1=C(C(=CC=C1)C)NC(CNCCSS(C)(=O)=O)=O | C13H20N2O3S2
